US08114867B2
84.i. 2-chloro-N-(6-methoxy-[1,5]naphthyridin-4-yl)-acetamide
To a solution of 6-methoxy-[1,5]naphthyridin-4-ylamine (553 mg, 3.16 mmol) in THF (45 mL) was added potassium tert-butoxide (390 mg, 1.1 eq.) at 0° C. The resulting brown suspension was stirred at rt for 1.5 h and then added dropwise to a solution of ethyl chloroacetate (387 mg, 1 eq.) in THF (30 mL) at −5° C. The mixture was allowed to warm to rt and was further stirred for 3 h. Water was added and the mixture was concentrated under reduced pressure. The resulting precipitate was filtered and further dried at HV to afford the title intermediate as a beige solid (357 mg, 45% yield).

reactant | 6-methoxy-[1,5]naphthyridin-4-ylamine | 3.16 mmol, 553 mg | COC=1N=C2C(=CC=NC2=CC1)N | C9H9N3O
reactant | potassium tert-butoxide | 390 mg, 1.1 eq. | CC(C)([O-])C.[K+]
reactant | ethyl chloroacetate | 387 mg, 1 eq. | ClCC(=O)OCC | C4H7ClO2
reactant | Water | O | H2O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-chloro-N-(6-methoxy-[1,5]naphthyridin-4-yl)-acetamide | 357 mg, 45% yield | ClCC(=O)NC1=CC=NC2=CC=C(N=C12)OC | C11H10ClN3O2
